US04174401
To 38.43 grams (0.10 mole) of 1-diphenylmethyl-2-methyl-2-thiopseudourea hydroiodide in 200 milliliters of o-dichlorobenzene was added 10.22 grams (0.10 mole) of N,N'-dimethyl-1,3-propanediamine and the resulting mixture heated under reflux for 21 hours. The reaction mixture was cooled, the solvent decanted therefrom and isopropanol added to the gummy residue to obtain 24.35 grams (59.8 percent yield) of 2-diphenylmethylimino-1,2,3,4,5,6-hexahydro-1,3-dimethylpyrimidine hydroiodide product of m.p. 215°-219° C. After two recrystallizations from methanol-isopropanol, a purified product, m.p. 221° C., was obtained.

reactant | 1-diphenylmethyl-2-methyl-2-thiopseudourea hydroiodide | 0.10 mole, 38.43 grams | I.C1(=CC=CC=C1)C(NC(SC)=N)C1=CC=CC=C1
reactant | N,N'-dimethyl-1,3-propanediamine | 0.10 mole, 10.22 grams | CNCCCNC | C5H14N2
reactant | o-dichlorobenzene | 200 milliliters | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-diphenylmethylimino-1,2,3,4,5,6-hexahydro-1,3-dimethylpyrimidine hydroiodide | 24.35 grams, 59.8 percent yield | I.C1(=CC=CC=C1)C(C1=CC=CC=C1)N=C1N(CCCN1C)C | InChI=1S/C19H23N3.HI/c1-21-14-9-15-22(2)19(21)20-18(16-10-5-3-6-11-16)17-12-7-4-8-13-17;/h3-8,10-13,18H,9,14-15H2,1-2H3;1H
